US08048887B2
6-Amino-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl trifluoromethanesulfonate
Iron (211 mg, 3.79 mmol) was added to a stirring solution of 2-(4-fluorophenyl)-3-(methylcarbamoyl)-6-nitrobenzofuran-5-yl trifluoromethanesulfonate (350 mg, 0.757 mmol) in EtOH (8.4 mL) and AcOH (8.4 mL) at rt and then was heated to 100° C. for 10 min. The mixture was diluted with EtOAc and washed with 1M HCl, and sat NaCl followed by 1M NaOH and brine. The organic phase was dried over Na2SO4, filtered and concentrated to give a white solid which was 1:1 starting material:product. It was resubjected to the reaction conditions for 15 min and re-worked up to give the titled compound (275 mg, 84%). LC-MS retention time: 1.47 min; m/z (MH+): 433. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters XBridge 5u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a MICROMASS® Platform for LC in electrospray mode.

reactant | 2-(4-fluorophenyl)-3-(methylcarbamoyl)-6-nitrobenzofuran-5-yl trifluoromethanesulfonate | 0.757 mmol, 350 mg | FC(S(=O)(=O)OC=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1)[N+](=O)[O-])(F)F | C17H10F4N2O7S
solvent | EtOH | 8.4 mL | CCO | C2H6O
solvent | AcOH | 8.4 mL | CC(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Iron | 3.79 mmol, 211 mg | [Fe] | Fe
product | 6-Amino-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl trifluoromethanesulfonate | 275 mg, 84% | FC(S(=O)(=O)OC=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1)N)(F)F | C17H12F4N2O5S
